US07662402B2
In 15 ml of acetone, 1.5 g of 4,4-difluorocyclohexylmethyl p-toluenesulfonate was dissolved. Thereto 1.6 g of lithium bromide monohydrate was added and the mixture was heated under reflux for 8 hours. After the reaction mixture was cooled to room temperature, water was added and the mixture was extracted with t-butyl methyl ether. The organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.76 g of 4-bromomethyl-1,1-difluorocyclohexane.

reactant | 4,4-difluorocyclohexylmethyl p-toluenesulfonate | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1CCC(CC1)(F)F)C | C14H18F2O3S
reactant | lithium bromide monohydrate | 1.6 g | O.[Br-].[Li+]
reactant | water | O | H2O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 4-bromomethyl-1,1-difluorocyclohexane | 0.76 g | BrCC1CCC(CC1)(F)F | C7H11BrF2
